### PR TITLE
[Merged by Bors] - feat: add lemmas about `Fin.rev`

### PR DESCRIPTION
**Pull request by alexkeizer**
---

Adds two simple lemmas about `Fin.rev`

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fin/Basic.lean [hunk 1]
```diff
@@ -403,6 +403,9 @@ theorem revOrderIso_symm_apply (i : Fin n) : revOrderIso.symm i = OrderDual.toDu
   rfl
 #align fin.rev_order_iso_symm_apply Fin.revOrderIso_symm_apply
 
+@[simp] lemma rev_last (n : ℕ) : Fin.rev (Fin.last n) = ⟨0, Nat.succ_pos n⟩ := by
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:406]:
```suggestion
@[simp] lemma rev_last (n : ℕ) : Fin.rev (Fin.last n) = 0 := by
```

**Comment by linesthatinterlace** [comment]
Also, I proved `Fin.rev_last` recently, just haven't PR'd it. I have a somewhat simpler proof in case you want it. I suspect you may also want `Fin.rev_zero`.
```
lemma rev_last {m : ℕ} : (last m).rev = 0 := by
  rw [ext_iff, val_rev, val_last, val_zero, tsub_self]

lemma rev_zero {m : ℕ} : (0 : Fin (m + 1)).rev = (last m) := rfl
```

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 2]
```diff
@@ -661,6 +661,36 @@ theorem append_right_cons {n m} {α : Type*} (xs : Fin n → α) (y : α) (ys :
       Fin.append (Fin.snoc xs y) ys ∘ Fin.cast (Nat.succ_add_eq_succ_add ..).symm := by
   rw [append_left_snoc]; rfl
 
+theorem cons_comp_rev {α n} (a : α) (f : Fin n → α) :
+    Fin.cons a f ∘ Fin.rev = Fin.snoc (f ∘ Fin.rev) a := by
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply Mathlib/Data/Fin/Tuple/Basic.lean:665]: done

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 3]
```diff
@@ -661,6 +661,44 @@ theorem append_right_cons {n m} {α : Type*} (xs : Fin n → α) (y : α) (ys :
...
+      simp only [Fin.rev, ge_iff_le, add_le_iff_nonpos_right, nonpos_iff_eq_zero,
+        add_tsub_cancel_left, Fin.mk_one, Fin.cons_one, Fin.cons_zero]
+    · obtain rfl : i = Fin.last (n + 1) := by
+        apply eq_of_le_of_not_lt
+        · exact Nat.le_of_lt_succ i.prop
+        · exact lt_succ_n
+      simp only [Fin.rev_last, Fin.zero_eta, Fin.cons_zero]
+
+theorem snoc_comp_rev {α n} (a : α) (f : Fin n → α) :
+    Fin.snoc f a ∘ Fin.rev = Fin.cons a (f ∘ Fin.rev) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Basic.lean:695]: Can you add the applied versions, `Fin.snoc f a (Fin.rev i) = Fin.cons a (f ∘ Fin.rev) i`, too? Those strike me as useful for rewrites.

Comment (alexkeizer) [reply Mathlib/Data/Fin/Tuple/Basic.lean:695]: Sure, what is the naming convention for that, `snoc_rev`?

**Comment by alexkeizer** [comment]
> `(Fin.append a b) ∘ Fin.rev = Fin.append (b ∘ Fin.rev) (a ∘ Fin.rev)`

You need a cast as well (if we want to allow `a` and `b` to be of different length), so it becomes
`(Fin.append a b) ∘ Fin.rev = Fin.append (b ∘ Fin.rev) (a ∘ Fin.rev) ∘ (Fin.cast <| Nat.add_comm ..)`

**Comment by alexkeizer** [comment]
I tried to prove `(Fin.append a b) ∘ Fin.rev = Fin.append (b ∘ Fin.rev) (a ∘ Fin.rev)` but found that the `Fin` tuple API has a lot of holes still. I've added a few lemmas, but ultimately decided to stub this result out as a `proof_wanted` as well.

>  Of which both these results are a consequence because we have a link between them. I think?

I'm sure this is true, but the proof for `Fin.append_rev` that I have in mind requires `Fin.cons_rev`, so we need an independent proof of the latter anyway.

**Comment by urkud** [comment]
I'm going have a look at this (golfing existing proofs and proving the `proof_wanted` statement) later tonight.

File: Mathlib/Data/Fin/Basic.lean [hunk 4]
```diff
@@ -1580,6 +1592,14 @@ theorem one_succAbove_one {n : ℕ} : (1 : Fin (n + 3)).succAbove 1 = 2 := by
   exact this
 #align fin.one_succ_above_one Fin.one_succAbove_one
 
+lemma rev_succAbove (p : Fin (n + 1)) (i : Fin n) :
```
Comment (linesthatinterlace) [inline Mathlib/Data/Fin/Basic.lean:1595]: This lemma looks like it might be the wrong way round?

Comment (urkud) [reply Mathlib/Data/Fin/Basic.lean:1595]: Probably, you're right. Feel free to change it.

Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean:1595]: I wonder what the general property of a function that commutes with succAbove in this way is?

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 5]
```diff
@@ -893,6 +951,9 @@ theorem preimage_insertNth_Icc_of_not_mem {i : Fin (n + 1)} {x : α i} {q₁ q
     simp only [mem_preimage, insertNth_mem_Icc, hx, false_and_iff, mem_empty_iff_false]
 #align fin.preimage_insert_nth_Icc_of_not_mem Fin.preimage_insertNth_Icc_of_not_mem
 
+proof_wanted insertNth_comp_rev {α} (i : Fin (n + 1)) (x : α) (p : Fin n → α) :
```
Comment (urkud) [inline Mathlib/Data/Fin/Tuple/Basic.lean:954]: Please prove using `insertNth_rev`

Comment (bollu) [reply Mathlib/Data/Fin/Tuple/Basic.lean]: Done.

File: Mathlib/Data/Fin/Basic.lean [hunk 6]
```diff
@@ -347,6 +347,8 @@ theorem pos_iff_ne_zero' [NeZero n] (a : Fin n) : 0 < a ↔ a ≠ 0 := by
 #align fin.eq_zero_or_eq_succ Fin.eq_zero_or_eq_succ
 #align fin.eq_succ_of_ne_zero Fin.eq_succ_of_ne_zero
 
+@[simp] lemma cast_eq_self (h : n = n) (a : Fin n) : cast h a = a := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:350]: I think this is the same as
```suggestion
@[simp] lemma cast_eq_self (a : Fin n) : cast rfl a = a := rfl
```

**Comment by tobiasgrosser** [comment]
All comments have been addressed. Please let us know if anything else should be changed.

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 7]
```diff
@@ -893,6 +951,12 @@ theorem preimage_insertNth_Icc_of_not_mem {i : Fin (n + 1)} {x : α i} {q₁ q
     simp only [mem_preimage, insertNth_mem_Icc, hx, false_and_iff, mem_empty_iff_false]
 #align fin.preimage_insert_nth_Icc_of_not_mem Fin.preimage_insertNth_Icc_of_not_mem
 
+theorem insertNth_comp_rev {α} (i : Fin (n + 1)) (x : α) (p : Fin n → α) :
+    (Fin.insertNth i x p) ∘ Fin.rev = Fin.insertNth (Fin.rev i) x (p ∘ Fin.rev) := by
+  funext x
+  simp
+  rw[insertNth_rev]
```
Comment (urkud) [inline Mathlib/Data/Fin/Tuple/Basic.lean:958]: Non-terminal `simp`s without `only` are not allowed in Mathlib. Please try one of these suggestions:
```suggestion
  apply insertNth_rev
```
```suggestion
  simp [insertNth_rev]
```
or even use `funext <| insertNth_rev ..` as a term-mode proof.
Also, please move this lemma right after `insertNth_rev`. Otherwise LGTM. Thanks!

bors d+

**Comment by tobiasgrosser** [comment]
I merged master. The merge should now go through.
